US09376449B2
To a mixture of 2,3-dihydro-1-benzofuran-5-carboxylic acid (5.08 g), triethylamine (5.18 mL) and tert-butanol (91.9 mL) was added diphenylphosphoryl azide (8.00 mL), followed by stirring at 90° C. for 5 hours. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1 to 5:1) to obtain tert-butyl (2,3-dihydro-1-benzofuran-5-yl)carbamate (4.74 g).

reactant | 2,3-dihydro-1-benzofuran-5-carboxylic acid | 5.08 g | O1CCC2=C1C=CC(=C2)C(=O)O | C9H8O3
reactant | triethylamine | 5.18 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 8.00 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tert-butanol | 91.9 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl (2,3-dihydro-1-benzofuran-5-yl)carbamate | 4.74 g | O1CCC2=C1C=CC(=C2)NC(OC(C)(C)C)=O | C13H17NO3
